2118-07-25 09:10:00 Physician Attending Progress Note
Chief Complaint: hip fracture, Afib,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - START [**2118-7-24**] 10:24 PM
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-7-24**] 10:17 PM
   Ciprofloxacin - [**2118-7-25**] 01:13 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2118-7-24**] 10:27 PM
   Morphine Sulfate - [**2118-7-25**] 01:55 AM
   Heparin Sodium (Prophylaxis) - [**2118-7-25**] 08:31 AM
   Metoprolol - [**2118-7-25**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-7-25**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 76 (68 - 135) bpm
   BP: 105/59(71) {105/59(71) - 163/142(115)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,200 mL
                                                                    993 mL
   PO:
             TF:
   IVF:
                                                                    200 mL
                                                                    993 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    580 mL
   Urine:
   580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,000 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: thin elderly male lying in bed, mild agitation
   CV: irreg irreg
   Chest: CTA but poor air movement
   Abd: soft
   Ext: right LE slightly ext rotated
   Labs / Radiology
   12.5 g/dL
   159 K/uL
   84 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   34 mg/dL
   107 mEq/L
   141 mEq/L
   37.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2118-7-24**]  11:46 PM
                             [**2118-7-25**]  07:40 AM
   WBC
   9.9
   Hct
   37.8
   Plt
   159
   Cr
   1.2
   1.0
   TropT
   0.02
   Glucose
   116
   84
   Other labs: PT / PTT / INR:13.4/26.7/1.1, CK / CKMB /
   Troponin-T:119/4/0.02, Lactic Acid:1.7 mmol/L, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 FRACTURE, OTHER
 ATRIAL FIBRILLATION (AFIB)
 LEUKOCYTOSIS
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 IMPAIRED SKIN INTEGRITY
   1. Hip Fx - Plan for right ORIF this AM- will get beta blocker 5 IV q4,
   maintain SC hep.
   2. Afib
 old, rate control with bblocker, Echo this AM.
   3. Lactic Acidosis
 resolved - ? dry and UTI
   4. UTI- Rx with Cipro follow up cx
   5. Dementia
 maintain orientation, minimize narcotics, Zyprexa
   Remaining issues per Housestaff
   ICU Care
   Nutrition: NPO for OR
   Glycemic Control:
   Lines:
   Midline - [**2118-7-24**] 10:24 PM
   18 Gauge - [**2118-7-24**] 10:24 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   Communication:   trying to reach family
   Code status: DNR / DNI
   Disposition : ICU for now but likely to floor post op

2118-07-25 10:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2118-7-24**] 10:24 PM
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2118-7-24**] 10:17 PM
   Ciprofloxacin - [**2118-7-25**] 01:13 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2118-7-24**] 10:27 PM
   Morphine Sulfate - [**2118-7-25**] 01:55 AM
   Heparin Sodium (Prophylaxis) - [**2118-7-25**] 08:31 AM
   Metoprolol - [**2118-7-25**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-7-25**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 76 (68 - 135) bpm
   BP: 105/59(71) {105/59(71) - 163/142(115)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,200 mL
                                                                  1,070 mL
   PO:
             TF:
   IVF:
                                                                    200 mL
                                                                  1,070 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    580 mL
   Urine:
   580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,000 mL
                                                                    490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Alert and oriented to person, continues to refuse interaction
   Irregularly irregular
   Lung exam limited by talking, appears CTAB
   Abd: unable to examine
   Ext: WWP
   Labs / Radiology
   159 K/uL
   12.5 g/dL
   84 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   34 mg/dL
   107 mEq/L
   141 mEq/L
   37.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2118-7-24**]  11:46 PM
                             [**2118-7-25**]  07:40 AM
   WBC
   9.9
   Hct
   37.8
   Plt
   159
   Cr
   1.2
   1.0
   TropT
   0.02
   Glucose
   116
   84
   Other labs: PT / PTT / INR:13.4/26.7/1.1, CK / CKMB /
   Troponin-T:119/4/0.02, Lactic Acid:1.7 mmol/L, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 FRACTURE, OTHER
 ATRIAL FIBRILLATION (AFIB)
 LEUKOCYTOSIS
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 IMPAIRED SKIN INTEGRITY
   Assessment & Plan:  The patient is a [**Age over 90 **]y/o M with a PMH of Alzheimer's
   Dementia and Atrial fibrillation presenting s/p fall with R femoral
   intertrochanteric fracture
   # R femoral intertrochanteric fracture - s/p Fall. Xray demonstrates
   minimal displacement. The patient will require hip repair. Will discuss
   risk/benefits with the patient's family. He will likely require repair
   given morbidity of injury.
   - Continue morphine for pain control 1-2mg IV Q 4 prn
   - Medically optimize with rate control for atrial fibrillation
   - Continue bed rest
   - NPO for possible OR for fixation
   - Appreciate Ortho recs
   .
   # Atrial Fibrillation with RVR - Per records the patient has not been
   on a nodal [**Doctor Last Name **] due to history of bradycardia, family previously
   declined pacemaker. He also has not been anticoagulated. Responded well
   to diltiazem in [**Last Name (LF) 73**], [**First Name3 (LF) **] transition to beta blocker for pre-op
   management
   - Continue rate control with metoprolol 5mg IV Q 4
   - ECG without ischemic changes, Trop 0.03 likely secondary to demand
   from rapid rate, will repeat CE in am
   - No change on EKG this am.
   - TTE to eval systolic function
   .
   # Leukocytosis - likely reactive secondary to hip fracture, CXR without
   evidence of infiltrate. UA with 21-50 WBC, mod leuks/neg nitrites.
   Received Vanc/zosyn in ED. Afebrile
   - Blood and urine cultures pending
   - Cipro for UTI, awaiting cultures
   .
   # AG Metabolic Acidosis
 Lactate 2.8 improved from 4.0. AG 15.
   Infectious workup as above
   - Received 3L NS in ED
   - Lactate 1.7, continue to trend.
   # Alzheimer's Dementia - Per records the patient was recently
   hospitalized for behavioral disturbances. Patient started on zyprexa
   2.5mg QHS and citalopram and trazodone discontinued.
   - Continue zyprexa 2.5mg QHS
   - Consider prn zyprexa if needed for acute agitation
   .
   # CHF - unclear baseline EF. Patient on Bumetanide 1mg daily
   - BB preop for rate control as above
   - Hold diuretic for now given volume resuscitation
   .
   # FEN - NPO for now
   - Monitor lytes
   # Code - DNR/DNI per OSH records
   .
   # Dispo  - pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2118-7-24**] 10:24 PM
   18 Gauge - [**2118-7-24**] 10:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Continue to attempt to reach family for preop
   consent
   Code status: DNR / DNI
   Disposition:ICU for now

2118-07-26 10:50:00 Physician Attending Progress Note
Chief Complaint: hypotension, s/p ORIF of right hip
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - STOP [**2118-7-25**] 06:00 PM
   s/p ORIF went out  to floor last PM after PACU and did well until
   triggered at 6 AM for HR 140 SBP 94 - given 500 cc bolus responsed to
   IVF.
   Then again trigger for AF with rapid vent response with BP 80s and sent
   to MICU for further management
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-7-24**] 10:17 PM
   Ciprofloxacin - [**2118-7-25**] 01:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-7-25**] 11:05 AM
   Morphine Sulfate - [**2118-7-26**] 09:41 AM
   Metoprolol - [**2118-7-26**] 09:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-7-26**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 140 (76 - 141) bpm
   BP: 141/73(90) {104/60(71) - 141/89(98)} mmHg
   RR: 26 (12 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,281 mL
                                                                     11 mL
   PO:
             TF:
   IVF:
                                                                  1,281 mL
                                                                     11 mL
   Blood products:
   Total out:
                                                                    895 mL
                                                                     70 mL
   Urine:
                                                                    895 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    386 mL
                                                                    -59 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Gen: thin elderly male lying in bed, sedated
   CV: irreg irreg
   Chest: CTA but poor air movement
   Abd: soft + BS
   Ext: right LE dressing CDI, symmetric thighs
   Labs / Radiology
   12.3 g/dL
   158 K/uL
   82 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   30 mg/dL
   108 mEq/L
   138 mEq/L
   37.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2118-7-24**]  11:46 PM
                             [**2118-7-25**]  07:40 AM
                             [**2118-7-25**]  03:34 PM
   WBC
   9.9
   8.8
   Hct
   37.8
   37.1
   Plt
   159
   158
   Cr
   1.2
   1.0
   0.9
   TropT
   0.02
   Glucose
   116
   84
   82
   Other labs: PT / PTT / INR:13.4/26.7/1.1, CK / CKMB /
   Troponin-T:119/4/0.02, Lactic Acid:2.4 mmol/L, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 FRACTURE, OTHER
 ATRIAL FIBRILLATION (AFIB)
 LEUKOCYTOSIS
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 IMPAIRED SKIN INTEGRITY
   1. Afib with rapid vent response and assoc hypotension
  rate control
   with IV  bblocker until he can take po
 may consider Dig loading if
   cannot quickly get under control. If drops BPs still would try a bit
   more volume as he may be hypovolemic post op- HCT has been stable but
   we will trend. ECG unchanges so no evidence for acute ischemia as a
   precipitant.
   2. Hip Fx
 s/p right ORIF will get beta blocker 5 IV q4, Lovenox
   3. UTI- cx neg ABX d/c
   4. Dementia
 maintain orientation, minimize narcotics, Zyprexa prn
   Remaining issues per Housestaff
   ICU Care
   Nutrition: po s able
   Glycemic Control:
   Lines:
   Midline - [**2118-7-26**] 09:28 AM
   16 Gauge - [**2118-7-26**] 09:28 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: PPI
   Communication:  will call family to update
   Code status: DNR / DNI
   Critical Care 35 min
   Disposition :ICU
 once we can get his BP and RVRstable may be best if
   he goes straight to Radius for rehab

2118-07-27 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2118-7-26**] 09:28 AM
   - Agitated, gave 5 zyprexa once. Changed zyprexa qHS to 5mg standing.
   - Talked with [**Name (NI) **] [**Name (NI) 6263**] (Nephew/HCP) and gave update. No CVL or
   pressors.
   - gave IVF, increased morphine, started digoxin, toradol and tylenol
   - urine output decreased under 30cc/hour, pt appears dry, gave IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-7-24**] 10:17 PM
   Ciprofloxacin - [**2118-7-25**] 01:13 AM
   Cefazolin - [**2118-7-26**] 08:54 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2118-7-26**] 03:54 PM
   Morphine Sulfate - [**2118-7-26**] 06:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-7-27**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 78 (70 - 141) bpm
   BP: 104/52(65) {76/41(52) - 141/82(90)} mmHg
   RR: 14 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,683 mL
                                                                     70 mL
   PO:
             TF:
   IVF:
                                                                  2,683 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    447 mL
                                                                    200 mL
   Urine:
                                                                    447 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,236 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Cardiovascular: Alert, disoriented, appears comfortable.
   Irregularly irregular rhythm
   Lungs clear, but very shallow respiration, not cooperative with exam
   Abdomen soft, non-tender
   Pedal pulses 2+ bilaterally
   Surgical dressing clean, minimal old blood, no surrounding erythema,
   non-tender to palpation.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   165 K/uL
   11.2 g/dL
   83 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   20 mg/dL
   113 mEq/L
   144 mEq/L
   35.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2118-7-24**]  11:46 PM
                             [**2118-7-25**]  07:40 AM
                             [**2118-7-25**]  03:34 PM
                             [**2118-7-26**]  01:47 PM
                             [**2118-7-26**]  03:35 PM
                             [**2118-7-27**]  03:06 AM
   WBC
   9.9
   8.8
   7.6
   Hct
   37.8
   37.1
   33.0
   35.4
   Plt
   159
   158
   165
   Cr
   1.2
   1.0
   0.9
   0.7
   0.9
   TropT
   0.02
   Glucose
   116
   84
   82
   89
   83
   Other labs: PT / PTT / INR:11.5/26.5/1.0, CK / CKMB /
   Troponin-T:119/4/0.02, Lactic Acid:2.0 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 FRACTURE, OTHER
 ATRIAL FIBRILLATION (AFIB)
 LEUKOCYTOSIS
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan
   Assessment & Plan: The patient is a [**Age over 90 **]y/o M with a PMH of Alzheimer's
   Dementia and Atrial fibrillation admitted s/p fall with R femoral
   intertrochanteric fracture s/p repair now with continued atrial
   fibrillation with RVR and intermittent hypotension
   .
   # Atrial Fibrillation with RVR - Per records the patient has not been
   on a nodal [**Doctor Last Name **] due to history of bradycardia, family previously
   declined pacemaker. He also has not been anticoagulated.
   Pre-operatively his HR was well controlled with metoprolol 5mg IV Q 4,
   now with poor rate control post-op.  RVR likely multifactorial
 due to
   pain, recent surgery, hypovolemia, underlying condition.  Heart rate
   well controlled overnight, BP low but stable.  No metoprolol given
   overnight.
   -Stable overnight
 HR well controlled, BP stable
   -Now on digoxin, loading dose given, will continue for rate control
   -DC metoprolol due to concerns for hypotension
 history of bradycardia
   - Continue pain control
   .
   # R femoral intertrochanteric fracture - now s/p intratrochanteric nail
   placement.
   - Continue morphine for pain control.
   - Ambulation per Ortho recs
   - Continue DVT prophylaxis with lovenox 40 mg SC QPM
   - HCT stable post-op.
   .
   # Leukocytosis on prior labs
 now resolved. Urine Culture NG and
   antibiotics now discontinued.
   .
   # Systolic CHF - TTE [**7-24**] demonstrated EF 40% with 2+ MR, AR 1+/TR 1+.
   No evidence of volume overload currently.
   - Fluid bolus given yesterday, will monitor UOP.
   .
   # Alzheimer's Dementia - Per records the patient was recently
   hospitalized for behavioral disturbances. Patient started on zyprexa
   2.5mg QHS and citalopram and trazodone discontinued.  Zyprexa increased
   to 5 mg [**Hospital1 7**] due to persistent agitation.
   - Continue Zyprexa at increased dose
   - Consider prn zyprexa if needed for acute agitation
   .
   # FEN - Cardiac diet. S&S evaluation yesterday incomplete due to
   agitation, then later somnolence.
   - electrolytes stable
   .
   # Access - Midline and 18 guage IV
   .
   # Prophylaxis - Continue home PPI , also on SQ Lovenox
   .
   # Code - DNR/DNI
   .
   # Dispo
 DC to rehab facility today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2118-7-26**] 09:28 AM
   16 Gauge - [**2118-7-26**] 09:28 AM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer:  PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:  DC to rehab.

2118-07-27 10:22:00 Physician Attending Progress Note
Chief Complaint: afib with RVR, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - START [**2118-7-26**] 09:28 AM
   Dig loaded
   Morphine for pain control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-7-24**] 10:17 PM
   Ciprofloxacin - [**2118-7-25**] 01:13 AM
   Cefazolin - [**2118-7-26**] 08:54 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2118-7-26**] 06:39 PM
   Pantoprazole (Protonix) - [**2118-7-27**] 08:15 AM
   Metoprolol - [**2118-7-27**] 10:01 AM
   Other medications:
   Lovenox, Lopressor 5 mg IV q4, Dig o.125 mg QD
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-7-27**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.3
   HR: 88 (67 - 131) bpm
   BP: 119/48(65) {76/41(52) - 119/82(90)} mmHg
   RR: 23 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,683 mL
                                                                    114 mL
   PO:
             TF:
   IVF:
                                                                  2,683 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                    447 mL
                                                                    272 mL
   Urine:
                                                                    447 mL
                                                                    272 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,236 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Gen: thin elderly male lying in bed, interactive at times
   CV: irreg irreg
   Chest: CTA but poor air movement
   Abd: soft + BS
   Ext: right LE dressing CDI, symmetric thighs
   Neuro: more calm, happy to see nephew [**Name (NI) **]
   [**Name (NI) 582**] / Radiology
   11.2 g/dL
   165 K/uL
   83 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   20 mg/dL
   113 mEq/L
   144 mEq/L
   35.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2118-7-24**]  11:46 PM
                             [**2118-7-25**]  07:40 AM
                             [**2118-7-25**]  03:34 PM
                             [**2118-7-26**]  01:47 PM
                             [**2118-7-26**]  03:35 PM
                             [**2118-7-27**]  03:06 AM
   WBC
   9.9
   8.8
   7.6
   Hct
   37.8
   37.1
   33.0
   35.4
   Plt
   159
   158
   165
   Cr
   1.2
   1.0
   0.9
   0.7
   0.9
   TropT
   0.02
   Glucose
   116
   84
   82
   89
   83
   Other [**Year (4 digits) **]: PT / PTT / INR:11.5/26.5/1.0, CK / CKMB /
   Troponin-T:119/4/0.02, Lactic Acid:2.0 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 FRACTURE, OTHER
 ATRIAL FIBRILLATION (AFIB)
 LEUKOCYTOSIS
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 IMPAIRED SKIN INTEGRITY
   1. Afib with rapid vent response and assoc hypotension
  rate control
   with IV  bblocker and added a Dig load, and HR and BPs have been under
   control. Likely the Morphine and volume control helped as well. Check a
   Dig level and be careful not to overshoot. Would not use IV bblocker
   anymore unless RVR
   2. Hip Fx
 s/p right ORIF Lovenox, pain control, PT
   3. Dementia
 maintain orientation, minimize narcotics, Zyprexa prn
   4. Nutrition- Speech and Swallow to see today
   Remaining issues per Housestaff
   ICU Care
   Nutrition: likely will give mech soft, follow up Speech and Swallow
   Glycemic Control:
   Lines:
   Midline - [**2118-7-26**] 09:28 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: PPI
   Communication:  nephew here and will meet today
   Code status: DNR / DNI
   Disposition : likely to floor or back to rehab
 talk to case
   management